US07214714B2
Synthesis of N-hydroxyl-N′-(3-chloro-4-thiomorpholinophenyl)formamidine
A mixture of 3-chloro-4-fluoronitrobenzene (0.070 g, 0.4 mmol) and thiomorpholine (0.165 g, 1.6 mmol) was stirred at 70° C. for 16 hours. The reaction mixture was cooled down to room temperature, concentrated under a reduced pressure and purified by a silica gel column chromatography (developing solvents; chloroform:methanol=9:1) to obtain yellow powdery crystals. Iron powder (0.27 g, 4.83 mmol), isopropanol (0.5 ml) and 1 equivalent of aqueous solution of ammonium chloride (0.12 ml, 0.12 mol) were added thereto, followed by stirring at 70° C. for 16 hours. The reaction mixture was cooled down to room temperature, tetrahydrofuran (0.4 ml) was added thereto and insoluble matters were filtered off using Celite, followed by washing with ethyl acetate (0.4 ml) for four times. The filtrate was concentrated under a reduced pressure and methanol (0.4 ml) and dimethylformamide dimethylacetal (0.095 g, 0.8 mmol) were added thereto, followed by stirring at 70° C. for 64 hours. The reaction mixture was cooled down to room temperature and concentrated under a reduced pressure and methanol (0.4 ml) and hydroxylamine hydrochloride (0.033 g, 0.48 mmol) were added thereto, followed by stirring at room temperature for 6 hours. The reaction mixture was concentrated under a reduced pressure and a saturated aqueous solution of sodium hydrogen carbonate (0.4 ml) was added thereto, followed by extracting with ethyl acetate. The organic layer was concentrated under a reduced pressure, purified by an NH type silica gel column chromatography (developing solvents; n-hexane:ethyl acetate=1:1) and recrystallized from ethyl acetate/n-hexane to obtain the title compound (0.026 g) (the compound 3 in Table 1 which will be shown after) in colorless powder.

reactant | 3-chloro-4-fluoronitrobenzene | 0.4 mmol, 0.070 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | thiomorpholine | 1.6 mmol, 0.165 g | N1CCSCC1 | C4H9NS
reactant | ammonium chloride | 0.12 mol, 0.12 ml | [Cl-].[NH4+]
reactant | dimethylformamide dimethylacetal | 0.8 mmol, 0.095 g | COC(N(C)C)OC | C5H13NO2
reactant | hydroxylamine hydrochloride | 0.48 mmol, 0.033 g | Cl.NO
catalyst | Iron | 4.83 mmol, 0.27 g | [Fe] | Fe
solvent | methanol | 0.4 ml | CO | CH4O
solvent | methanol | 0.4 ml | CO | CH4O
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
product | N-hydroxyl-N′-(3-chloro-4-thiomorpholinophenyl)formamidine | 0.026 g | ONC=NC1=CC(=C(C=C1)N1CCSCC1)Cl | C11H14ClN3OS
